2198-04-27 07:26:00 Physician Resident Progress Note
Chief Complaint: Transfer for XRT
   24 Hour Events:
 ARTERIAL LINE - START [**2198-4-26**] 04:40 PM
 MULTI LUMEN - START [**2198-4-26**] 04:40 PM
 ARTERIAL LINE - START [**2198-4-26**] 10:00 PM
 ARTERIAL LINE - STOP [**2198-4-26**] 10:13 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2198-4-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2198-4-27**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 92 (84 - 111) bpm
   BP: 134/56(78) {134/56(78) - 166/91(121)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    620 mL
                                                                    514 mL
   PO:
             TF:
                                                                     80 mL
                                                                    144 mL
   IVF:
                                                                    100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    465 mL
                                                                    570 mL
   Urine:
                                                                    465 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/46/65/33/9
   PaO2 / FiO2: 130
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   9.5 g/dL
   136
   1.2 mg/dL
   33 mEq/L
   3.8 mEq/L
   52 mg/dL
   110 mEq/L
   149 mEq/L
   28.7 %
   27.2 K/uL
        [image002.jpg]
                             [**2198-4-25**]  02:50 AM
                             [**2198-4-25**]  08:18 AM
                             [**2198-4-25**]  02:12 PM
                             [**2198-4-25**]  04:42 PM
                             [**2198-4-26**]  04:35 AM
                             [**2198-4-26**]  12:43 PM
                             [**2198-4-26**]  05:11 PM
                             [**2198-4-27**]  04:20 AM
                             [**2198-4-27**]  04:24 AM
                             [**2198-4-27**]  06:00 AM
   WBC
   16.8
   22.8
   27.2
   Hct
   24.9
   29.7
   28.7
   Plt
   162
   217
   155
   Cr
   1.4
   1.3
   1.2
   1.3
   1.2
   TCO2
   27
   32
   29
   35
   Glucose
   135
   114
   140
   109
   127
   136
   Other labs: PT / PTT / INR:13.6/24.7/1.2, ALT / AST:[**9-28**], Alk Phos / T
   Bili:80/0.4, Amylase / Lipase:52/57, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   LDH:247 IU/L, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Microbiology: urine, sputum, blood ngtd
   Assessment and Plan
   72 yo man with non ischemic cardiomyopathy and copd with new large
   right-sided mediastinal mass(small cell ca) and hypoxia post
   transbronchoscopic biopsy in setting PTX
   .
   #)Hypoxia- multifactorial setting of PTX, aspiration PNA, heart
   failure
   - continue unasyn for asp pna, d/c vanco yesterday.   UNASYN DAY 7 of
   10
   - nebs prn and standing
   - chest tube on suction for PTX, total output over 24 hrs of 150cc
   - will ask IP to come back to eval Ctube today
   - goal 1 liter negative today given elevated JVD
   - decrease steroids 60mg Q12h.
   .
   # Hypernatremia- Na increased after two days of holding tube feeds
   - increased free water boluses with tube feeds to 250cc q3h
   - [**Hospital1 **] lytes
   .
   #R lung mass: Pt with SCLC per cytology. Pt underwent staging
   radiology. No brain mets found. Trying to determine limited vs.
   extensive dx in terms of deciding on goals of chemo vs. radiation.
   -XRT today
   .
   # Acute on chronic renal failure: came in w/ Cr of 1.6. up to 2.5, now
   back to baseline. Likely from hypotension/ATN.
   -monitor urine output
   .
   #CHF: EF 35-40% on last echo in [**4-18**]. had cardiomyopathy
   (non-ischemic), repeat echo [**2198-4-19**] with EF 20%
   -dc'ed digoxin
   -diuresis for goal of -1L, give 20 IV lasix given slightly positive
   this morning
   -switched to Toprol XL 200 and Lisinopril 20mg daily per cards recs
   yesterday
   .
   #) HTN: was well controlled on home regimen.
   -Toprol XL and lisinopril
   -may restart procardia XL if cont. to be elevated
   .
   #h/o inducible VT: pt has an ICD placed in 07.
   -had episode of "pulseless" vt 2 days ago as per monitor/no a-line
   tracing. Resolved without intervention. Pt has ICD but reportedly did
   not fire.
   -replete lytes aggressively
   -continue BB
   .
   #pericardial effusion: observed on CT, on echo [**4-19**] small, no evidence
   of tamponade, bedside echo [**4-19**] with 2cm of effusion over RA when in
   diastole, criteria for drainage is 2cm around heart in all phases of
   cardiac cycle
   -repeat echo [**4-20**] did not show evidence of tampondade
   -monitor pulsus, 8mmhg this morning
   .
   prophylaxis: ppi, pneumoboots, aggressive bowel regimen.
   .
   FEN: NGT to remain in place for now, encourage PO, tube feeds with free
   water boluses,PO freew water, replete lytes
   .
   Access: Right SC (placed [**4-19**]), right radial artery ([**4-26**])
   .
   #) code: full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-26**] 05:42 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2198-4-26**] 04:40 PM
   Arterial Line - [**2198-4-26**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2198-04-27 09:17:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo M with cmp, copd, sclc dx'd on bronch w/  bx c/b pnx, bleeding,
   with aspiration of blood and resp failure
   24 Hour Events:
 ARTERIAL LINE - START [**2198-4-26**] 04:40 PM
 MULTI LUMEN - START [**2198-4-26**] 04:40 PM
 ARTERIAL LINE - START [**2198-4-26**] 10:00 PM
 ARTERIAL LINE - STOP [**2198-4-26**] 10:13 PM
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2198-4-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-27**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 92 (84 - 111) bpm
   BP: 134/56(78) {134/56(78) - 166/91(121)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    620 mL
                                                                  1,209 mL
   PO:
             TF:
                                                                     80 mL
                                                                    209 mL
   IVF:
                                                                    100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    465 mL
                                                                    720 mL
   Urine:
                                                                    465 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/46/65/33/9
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   Tone: Normal
   Labs / Radiology
   9.5 g/dL
   155 K/uL
   136
   1.2 mg/dL (1,3)
   33 mEq/L
   3.8 mEq/L
   52 mg/dL
   110 mEq/L
   149 mEq/L (153)
   28.7 %
   27.2 K/uL
        [image002.jpg]
                             [**2198-4-25**]  02:50 AM
                             [**2198-4-25**]  08:18 AM
                             [**2198-4-25**]  02:12 PM
                             [**2198-4-25**]  04:42 PM
                             [**2198-4-26**]  04:35 AM
                             [**2198-4-26**]  12:43 PM
                             [**2198-4-26**]  05:11 PM
                             [**2198-4-27**]  04:20 AM
                             [**2198-4-27**]  04:24 AM
                             [**2198-4-27**]  06:00 AM
   WBC
   16.8
   22.8
   27.2
   Hct
   24.9
   29.7
   28.7
   Plt
   162
   217
   155
   Cr
   1.4
   1.3
   1.2
   1.3
   1.2
   TCO2
   27
   32
   29
   35
   Glucose
   135
   114
   140
   109
   127
   136
   Other labs: PT / PTT / INR:13.6/24.7/1.2, ALT / AST:[**9-28**], Alk Phos / T
   Bili:80/0.4, Amylase / Lipase:52/57, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   LDH:247 IU/L, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr --poor film/cut off, improving eff, R ct, sq in good
   position
   Microbiology: urine, blood, sput ngtd
   Assessment and Plan
   72 yo M with cmp, copd, sclc dx'd on bronch with bx c/b pnx, bleeding,
   with aspiration of blood, resp failure
 extubated and improving
   # resp distress/hypoxia--
   multifactorial
copd, vol o/l, asp pna /atelectasis
   - gentle diuresis (goal
 500)
   - wean O2
   - continue antibx for asp pna--vanco d/c'd yesterday, complete course
   unasyn 7/10 days
   -  nebs
   - decrease methylpred to 60 [**Hospital1 **]
   # loculated apical pnx/ct
   ct--reassess after mapping w/ trial on waterseal , drainagedecreasing,
   IP following
   # Hypernatremia--improving with free H2o
    [**Hospital1 **] lytes
   # sclc--xrt mapping, ? malignant effusion--will require further
   assessment
   # ARF--resolving to baseline with autodiuresis
   # CMP/htn
   apprec cards input
   continue BB, ace-i
   # bowel reg--lactulose
   # pain control-adequate w/ fent patch
   # leukocytosis--continues to increase, though remains af , no growth on
   cx's, on steroids,
   monitior with low threshold to broaden antbx
   picc then d/c neck line
   fem a line changed yesterday
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-26**] 05:42 PM 30 mL/hour
   Comments: NGT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2198-4-26**] 04:40 PM
   Arterial Line - [**2198-4-26**] 10:00 PM
   Comments: scl placed [**4-19**] --> picc c/s
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2198-04-28 07:15:00 Physician Resident Progress Note
Chief Complaint: 72M with MMP including a recent dx of SCLC who
   presented on [**4-17**] with increasing SOB, found to have a mediastinal
   mass.  Diagnostic bronchoscopy was c/b a right pneumothorax with
   respiratory failure, requiring SICU admission for intubation and chest
   tube placement.  Extubated successfully and transferred to [**Hospital Unit Name 44**] for
   initiation of XRT.
   24 Hour Events:
 RADIATION THERAPY - At [**2198-4-27**] 02:00 PM
 PICC LINE - START [**2198-4-27**] 03:41 PM
   placed in ir
   - Had XRT/Mapping
   - Chest tube put out 250cc during day shift so did not put to water
   seal during day - placed on water seal at 3AM in prep for AM CXR.
   - 3pm Lytes with Sodium of 148 - increased free water boluses.
   - PICC not done - will have to go to IR on Monday.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2198-4-28**] 04:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-4-27**] 08:00 PM
   Lorazepam (Ativan) - [**2198-4-28**] 05:30 AM
   Other medications:
   Methylpred 60 IB q12
   lisinopril 20
   Fluticasone
   ipratropium
   albuterol
   PPI
   Simvastatin 40
   Fentanyl patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2198-4-28**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 96 (87 - 115) bpm
   BP: 147/65(90) {89/42(55) - 176/78(110)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,104 mL
                                                                  1,275 mL
   PO:
                                                                     75 mL
             TF:
                                                                    719 mL
                                                                    275 mL
   IVF:
                                                                    300 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,207 mL
                                                                    535 mL
   Urine:
                                                                  2,817 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    740 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   9.7 g/dL
   127 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.9 mEq/L
   60 mg/dL
   107 mEq/L
   144 mEq/L
   29.9 %
   31.7 K/uL
        [image002.jpg]
                             [**2198-4-25**]  02:12 PM
                             [**2198-4-25**]  04:42 PM
                             [**2198-4-26**]  04:35 AM
                             [**2198-4-26**]  12:43 PM
                             [**2198-4-26**]  05:11 PM
                             [**2198-4-27**]  04:20 AM
                             [**2198-4-27**]  04:24 AM
                             [**2198-4-27**]  06:00 AM
                             [**2198-4-27**]  03:57 PM
                             [**2198-4-28**]  04:58 AM
   WBC
   22.8
   27.2
   31.7
   Hct
   29.7
   28.7
   29.9
   Plt
   [**Telephone/Fax (3) 2772**]
   Cr
   1.3
   1.2
   1.3
   1.2
   1.3
   1.3
   TCO2
   32
   29
   35
   Glucose
   114
   140
   109
   127
   136
   115
   127
   Other labs: PT / PTT / INR:13.6/26.7/1.2, ALT / AST:[**9-28**], Alk Phos / T
   Bili:80/0.4, Amylase / Lipase:52/57, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:4.5 mg/dL
   Microbiology: Blood cultures 5/6: negative
   Sputum [**4-24**]: yeast
   Urine [**4-26**]: Negative
   MRSA/VRE screens negative
   Assessment and Plan
   72M with MMP including a recent dx of SCLC who presented on [**4-17**] with
   increasing SOB, found to have a mediastinal mass.  Diagnostic
   bronchoscopy was c/b a right pneumothorax, bleeding with aspiration of
   blood, and respiratory failure, requiring SICU admission for intubation
   and chest tube placement.  Extubated successfully and transferred to
   [**Hospital Unit Name 44**] for initiation of XRT.
   # Respiratory distress:  Has PMH of COPD, CHF which is complicated by
   an iatrogenic pneumothorax and aspiration PNA.  Now satting 95% on 2L
   NC, being treated for aspiration PNA, and has a chest tube in place.
   Did not optimally diurese yestareday, only -100cc
   -Continue supplemental O2 to keep sats >95%
   -ABX as below for aspiration PNA
   -Chest tube for PTX
   -Nebs prn with methylprednisolone given hx COPD
   -Diuresis to keep negative 500cc per day for CHF and volume overload
   # Pneumothorax: Chest tube in place draining serosanguinous fluid- a
   total of 240cc over the last 24hours.  Still on suction
   -Will place on water seal once drainage tapers off
   # Aspiration PNA
   -Day [**7-22**] of unasyn
   # Volume overload/ Hx of CHF with EF 20-25% on [**4-19**] echo
   -Gentle diuresis with lasix to keep -500cc/day
   -continue lisinopril and metoprolol
   #Hypernatremia: Improving with increased free water boluses, currently
   144 down from 148
   -continue free water boluses and monitoring [**Hospital1 **] sodium levels
   # Leukocytosis: All culture data negative, no fevers, adequate coverage
   for aspiration PNA, likely secondary to steroids
   -Continue to trend fever curve
   -taper steroids
   # Lung cancer: S/p XRT mapping and first round of radiation yesterday
   -Continue management as per radiation oncology
   -pain management with fentanyl patch
    # HTN
   -continue lisinopril and metoprolol
   # COPD
   -fluticasone, ipatropium, albuterol nebs
   -methylprednisolone- convert to oral pred?
   -ISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-27**] 04:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2198-4-26**] 04:40 PM
   Arterial Line - [**2198-4-26**] 10:00 PM
   PICC Line - [**2198-4-27**] 03:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2198-04-28 10:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  72 yo M with cmp, copd, sclc dx'd on bronch w/  bx c/b pnx,
   bleeding, with aspiration of blood and resp failure
   24 Hour Events:
 RADIATION THERAPY - At [**2198-4-27**] 02:00 PM
 PICC LINE - START [**2198-4-27**] 03:41 PM
   placed in ir
   increased free h2o boluses for hyper na
   mapping/1st xrt rx
   picc line placed
   ct-->> 200 cc output
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2198-4-28**] 04:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-4-27**] 08:00 PM
   Lorazepam (Ativan) - [**2198-4-28**] 05:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-28**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 93 (87 - 115) bpm
   BP: 95/41(56) {89/41(55) - 176/78(110)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 97%  (2L)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,104 mL
                                                                  1,471 mL
   PO:
                                                                     75 mL
             TF:
                                                                    719 mL
                                                                    471 mL
   IVF:
                                                                    300 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,207 mL
                                                                  1,170 mL
   Urine:
                                                                  2,817 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant, Diminished: r base), r CT
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   144 K/uL
   127 mg/dL
   1.3 mg/dL (1.3)
   30 mEq/L
   3.9 mEq/L
   60 mg/dL
   107 mEq/L
   144 mEq/L (148)
   29.9 %
   31.7 K/uL
        [image002.jpg]
                             [**2198-4-25**]  02:12 PM
                             [**2198-4-25**]  04:42 PM
                             [**2198-4-26**]  04:35 AM
                             [**2198-4-26**]  12:43 PM
                             [**2198-4-26**]  05:11 PM
                             [**2198-4-27**]  04:20 AM
                             [**2198-4-27**]  04:24 AM
                             [**2198-4-27**]  06:00 AM
                             [**2198-4-27**]  03:57 PM
                             [**2198-4-28**]  04:58 AM
   WBC
   22.8
   27.2
   31.7
   Hct
   29.7
   28.7
   29.9
   Plt
   [**Telephone/Fax (3) 2772**]
   Cr
   1.3
   1.2
   1.3
   1.2
   1.3
   1.3
   TCO2
   32
   29
   35
   Glucose
   114
   140
   109
   127
   136
   115
   127
   Other labs: PT / PTT / INR:13.6/26.7/1.2, ALT / AST:[**9-28**], Alk Phos / T
   Bili:80/0.4, Amylase / Lipase:52/57, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:4.5 mg/dL
   Imaging: cxr--c/t [**4-25**]--improvement at L base, minimal improvement of
   RLL/ML infiltrate
   CT in position
   Microbiology: [**4-17**] bl neg
   [**4-26**] urine neg
   sputum [**4-16**]-yeast
   Assessment and Plan
   72 yo M with cmp, copd, sclc dx'd on bronch with bx c/b pnx, bleeding,
   with aspiration of blood, resp failure, extubated and improving
   # resp distress/hypoxia--improving
     multifactorial--copd, vol o/l, asp pna /atelectasis
   - gentle diuresis (goal
 500) lasix
   - wean O2--NC w/ stable sats
   - antibx for asp pna--vanco d/c'd yesterday, complete course unasyn
   8/10 days
   -  nebs
   - decrease strroids --> change to pred 60 per day with taper
   # lCT for loculated apical pnx/effusion
   still with > 200 cc out per day, continue to wallsx, IP following
   # leukocytosis--continues to increase, though remains af, no growth on
   recent cx's, on steroids
   monitior with low threshold to broaden antbx in setting of temp
   has new picc--d/c central line
   d/c a-line
   # Hypernatremia--improving with free H2O boluses
    Follow [**Hospital1 **] lytes
   # sclc--xrt started yesterday was tolerated well, ? malignant
   effusion--will require further assessment
   onc per plans to initiate chemo
   # ARF--resolving to baseline with autodiuresis/gentle lasix
   # CMP/htn
   continue BB, ace-i
   # bowel reg--lactulose
   # pain control-adequate w/ fent patch
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-27**] 04:00 PM 50 mL/hour
   Comments: transition to PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2198-4-26**] 04:40 PM
   Arterial Line - [**2198-4-26**] 10:00 PM
   PICC Line - [**2198-4-27**] 03:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for Transfer to floor
   Total time spent: 40 minutes

2198-04-29 08:38:00 Physician Resident Progress Note
Chief Complaint: XRT for lung mass
   24 Hour Events:
 RADIATION THERAPY - At [**2198-4-28**] 08:05 AM
 ARTERIAL LINE - STOP [**2198-4-28**] 11:07 AM
 MULTI LUMEN - STOP [**2198-4-28**] 11:11 AM
 CALLED OUT
   -D/C'ed A-line, central line and NGT when tolerated diet
   -called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2198-4-29**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-29**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 87 (82 - 110) bpm
   BP: 116/57(68) {95/40(59) - 132/59(94)} mmHg
   RR: 20 (4 - 28) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,205 mL
                                                                    383 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
                                                                    720 mL
   IVF:
                                                                    225 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    565 mL
   Urine:
                                                                  2,785 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -930 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   9.8 g/dL
   131 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   60 mg/dL
   104 mEq/L
   144 mEq/L
   30.5 %
   30.5 K/uL
        [image002.jpg]
                             [**2198-4-25**]  04:42 PM
                             [**2198-4-26**]  04:35 AM
                             [**2198-4-26**]  12:43 PM
                             [**2198-4-26**]  05:11 PM
                             [**2198-4-27**]  04:20 AM
                             [**2198-4-27**]  04:24 AM
                             [**2198-4-27**]  06:00 AM
                             [**2198-4-27**]  03:57 PM
                             [**2198-4-28**]  04:58 AM
                             [**2198-4-29**]  03:58 AM
   WBC
   22.8
   27.2
   31.7
   30.5
   Hct
   29.7
   28.7
   29.9
   30.5
   Plt
   [**Telephone/Fax (3) 2792**]40
   Cr
   1.3
   1.2
   1.3
   1.2
   1.3
   1.3
   1.3
   TCO2
   29
   35
   Glucose
   114
   140
   109
   127
   136
   115
   127
   131
   Other labs: PT / PTT / INR:13.0/26.9/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:80/0.4, Amylase / Lipase:52/57, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:4.5 mg/dL
   Imaging: none
   Microbiology: ngtd
   Assessment and Plan
   72M with MMP including a recent dx of SCLC who presented on [**4-17**] with
   increasing SOB, found to have a mediastinal mass.  Diagnostic
   bronchoscopy was c/b a right pneumothorax, bleeding with aspiration of
   blood, and respiratory failure, requiring SICU admission for intubation
   and chest tube placement.  Extubated successfully and transferred to
   [**Hospital Unit Name 44**] for initiation of XRT.
   # Respiratory distress:  Has PMH of COPD, CHF which is complicated by
   an iatrogenic pneumothorax and aspiration PNA.  Now satting 95% on 2L
   NC, being treated for aspiration PNA, and has a chest tube in place.
   Did not optimally diurese yestareday, only -100cc
   -Continue supplemental O2 to keep sats >95%
   -ABX as below for aspiration PNA
   -Chest tube for PTX
   -Nebs prn with methylprednisolone given hx COPD
   -Diuresis to keep negative 500cc per day for CHF and volume overload
   # Pneumothorax: Chest tube in place draining serosanguinous fluid- a
   total of 240cc over the last 24hours.  Still on suction
   -Will place on water seal once drainage tapers off
   # Aspiration PNA
   -Day [**7-22**] of unasyn
   # Volume overload/ Hx of CHF with EF 20-25% on [**4-19**] echo
   -Gentle diuresis with lasix to keep -500cc/day
   -continue lisinopril and metoprolol
   #Hypernatremia: Improving with increased free water boluses, currently
   144 down from 148
   -continue free water boluses and monitoring [**Hospital1 **] sodium levels
   # Leukocytosis: All culture data negative, no fevers, adequate coverage
   for aspiration PNA, likely secondary to steroids
   -Continue to trend fever curve
   -taper steroids
   # Lung cancer: S/p XRT mapping and first round of radiation yesterday
   -Continue management as per radiation oncology
   -pain management with fentanyl patch
    # HTN
   -continue lisinopril and metoprolol
   # COPD
   -fluticasone, ipatropium, albuterol nebs
   -methylprednisolone- convert to oral pred?
   -ISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2198-4-27**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-04-29 11:22:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  72 yo M with cmp, copd, sclc dx'd on bronch w/  bx c/b pnx,
   bleeding, with aspiration of blood and resp failure
   24 Hour Events:
 RADIATION THERAPY - At [**2198-4-28**] 08:05 AM
 ARTERIAL LINE - STOP [**2198-4-28**] 11:07 AM
 MULTI LUMEN - STOP [**2198-4-28**] 11:11 AM
 CALLED OUT
   awaits floor bed
   neg 1 L (40 lasix)
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2198-4-29**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-29**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 92 (82 - 110) bpm
   BP: 132/80(68) {95/40(59) - 132/80(74)} mmHg
   RR: 24 (4 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,205 mL
                                                                    716 mL
   PO:
                                                                    360 mL
                                                                    460 mL
   TF:
                                                                    720 mL
   IVF:
                                                                    225 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    885 mL
   Urine:
                                                                  2,785 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -930 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: voice
   Oriented (to): X 3, Movement: purposeful
   Labs / Radiology
   9.8 g/dL
   140 K/uL
   131 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   60 mg/dL
   104 mEq/L
   144 mEq/L
   30.5 %
   30.5 K/uL
        [image002.jpg]
                             [**2198-4-25**]  04:42 PM
                             [**2198-4-26**]  04:35 AM
                             [**2198-4-26**]  12:43 PM
                             [**2198-4-26**]  05:11 PM
                             [**2198-4-27**]  04:20 AM
                             [**2198-4-27**]  04:24 AM
                             [**2198-4-27**]  06:00 AM
                             [**2198-4-27**]  03:57 PM
                             [**2198-4-28**]  04:58 AM
                             [**2198-4-29**]  03:58 AM
   WBC
   22.8
   27.2
   31.7
   30.5
   Hct
   29.7
   28.7
   29.9
   30.5
   Plt
   [**Telephone/Fax (3) 2792**]40
   Cr
   1.3
   1.2
   1.3
   1.2
   1.3
   1.3
   1.3
   TCO2
   29
   35
   Glucose
   114
   140
   109
   127
   136
   115
   127
   131
   Other labs: PT / PTT / INR:13.0/26.9/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:80/0.4, Amylase / Lipase:52/57, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:4.5 mg/dL
   Imaging: no new film
   Microbiology: sputum [**4-24**]--yeast
   [**4-26**]/ u/a neg
   bl neg
   Assessment and Plan
   72 yo M with cmp, copd, sclc dx'd on bronch with bx c/b pnx, bleeding,
   with aspiration of blood, resp failure, extubated and improving
   # hypoxia
    multifactorial
copd + vol o/l + asp pna +atelectasis
   -  continue gentle diuresis (goal
 500) lasix
   - complete course unasyn 9/10 days
   -  nebs
   - taper steroids
   # CT for loculated apical pnx/effusion
   still with > 200 cc out per day, continue to wall-sx,
   IP following
   plan
 waterseal  once drainage < 150 cc
   repeat cxr
   # leukocytosis--continues to increase, though pt remains af, no growth
   on recent cx's, on steroids
   low threshold to broaden antbx in setting of temp
   has new picc, neck line d/c
   effusion potential area for infection
would reimage in setting of temp
   as may be loculation
   # Hypernatremia--improving with free H2O boluses
   # sclc--xrt was tolerated well, ? malignant effusion--will require
   further assessment
   onc per plans to initiate chemo
   # ARF--at  baseline with autodiuresis/gentle lasix
   # CMP/htn
   continue BB, ace-i
   # bowel reg--lactulose
   # pain control-adequate w/ fent patch
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2198-4-27**] 03:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI (on steroids)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35